US07919504B2
tert-Butyl (4R)-4-((S)-((tert-butyl(dimethyl)silyl)oxy)(4-(trifluoromethyl)phenyl)methyl)-1,2,3-oxathiazolidine-3-carboxylate 2,2-dioxide:
A mixture of tert-butyl (4R)-4-((S)-((tert-butyl(dimethyl)silyl)oxy)(4-(trifluoromethyl)phenyl)methyl)-1,2,3-oxathiazolidine-3-carboxylate 2-oxide (1.80 g, 3.63 mmol), sodium periodate (3.11 g, 14.5 mmol), ruthenium(III) chloride hydrate (0.0164 g, 0.0726 mmol) in CH3CN:water:EtOAc (51 mL:17 mL:9 mL) was put in a sonicator for 17 minutes. The dark mixture became a yellow suspension. HPLC-MS showed no more starting material. The reaction mixture was filtered through celite and the solid was washed with EtOAc. The organic phase was washed with water and brine, dried over Na2SO4, and then concentrated in vacuo. The residue was purified by chromatography on silica gel (0-4%-10% EtOAc-hexane) to provide the product as a white solid (1.75 g, 94%). LCMS (API-ES) m/z: 456 (M+H+-56).

reactant | tert-butyl (4R)-4-((S)-((tert-butyl(dimethyl)silyl)oxy)(4-(trifluoromethyl)phenyl)methyl)-1,2,3-oxathiazolidine-3-carboxylate 2-oxide | 3.63 mmol, 1.80 g | [Si](C)(C)(C(C)(C)C)O[C@H]([C@@H]1N(S(OC1)=O)C(=O)OC(C)(C)C)C1=CC=C(C=C1)C(F)(F)F | C21H32F3NO5SSi
reactant | sodium periodate | 14.5 mmol, 3.11 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | water | O | H2O
reactant | EtOAc | 51 mL | CCOC(=O)C | C4H8O2
solvent | CH3CN | CC#N | C2H3N
catalyst | ruthenium(III) chloride hydrate | 0.0726 mmol, 0.0164 g | O.[Ru](Cl)(Cl)Cl
product | tert-Butyl (4R)-4-((S)-((tert-butyl(dimethyl)silyl)oxy)(4-(trifluoromethyl)phenyl)methyl)-1,2,3-oxathiazolidine-3-carboxylate 2,2-dioxide | 1.75 g, 94% | [Si](C)(C)(C(C)(C)C)O[C@H]([C@@H]1N(S(OC1)(=O)=O)C(=O)OC(C)(C)C)C1=CC=C(C=C1)C(F)(F)F | C21H32F3NO6SSi
